US08648201B2
4a.2 146 mg of {4-[6-amino-5-(6-methoxy-1H-benzimidazol-2-yl)pyridin-3-yl]pyrazol-1-yl}acetic acid (0.120 mmol) are dissolved in 1.5 ml of DMF. 17.5 mg (0.120 mmol) of 3,4-difluorobenzylamine, 16.2 mg (0.120 mmol) of HOBt, 23 mg (0120 mmol) of EDC and 26.4 μl (0.240 mmol) of N-methylmorpholine are added. The reaction mixture is stirred at room temperature for 14 h, and water/ethyl acetate is subsequently added. The aqueous phase is extracted 2× with ethyl acetate. The combined organic phases are washed with water, dried using sodium sulfate, filtered and evaporated to dryness. The residue is purified by means of preparative RP-HPLC, giving 2-{4-[6-amino-5-(6-methoxy-1H-benzimidazol-2-yl)pyridin-3-yl]pyrazol-1-yl}-N-(3,4-difluorobenzyl)acetamide; HPLC-MS [M+H]+ 490.2;

reactant | {4-[6-amino-5-(6-methoxy-1H-benzimidazol-2-yl)pyridin-3-yl]pyrazol-1-yl}acetic acid | 0.120 mmol | NC1=C(C=C(C=N1)C=1C=NN(C1)CC(=O)O)C1=NC2=C(N1)C=C(C=C2)OC | C18H16N6O3
reactant | 3,4-difluorobenzylamine | 0.120 mmol, 17.5 mg | FC=1C=C(CN)C=CC1F | C7H7F2N
reactant | HOBt | 0.120 mmol, 16.2 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | N-methylmorpholine | 0.240 mmol, 26.4 μl | CN1CCOCC1 | C5H11NO
solvent | DMF | 1.5 ml | CN(C)C=O | C3H7NO
solvent | water ethyl acetate | O.C(C)(=O)OCC
solvent | EDC | 23 mg
product | 2-{4-[6-amino-5-(6-methoxy-1H-benzimidazol-2-yl)pyridin-3-yl]pyrazol-1-yl}-N-(3,4-difluorobenzyl)acetamide | NC1=C(C=C(C=N1)C=1C=NN(C1)CC(=O)NCC1=CC(=C(C=C1)F)F)C1=NC2=C(N1)C=C(C=C2)OC | C25H21F2N7O2
